US07700628B2
D. N-(5-Chloropyridin-2-yl)-4-fluoro-2-[4-ethylthio-2-(3-(t-butoxycarbonylamino)-propyloxy)benzoylamino]benzamide
Using a procedure analogous to Example 4-E, N-(5-chloropyridin-2-yl)-4-fluoro-2-aminobenzamide and 4-(ethylthio)-2-(3-(t-butoxycarbonylamino)propyloxy)benzoic acid gave the title compound as a solid (0.93 g, 44%).

reactant | N-(5-chloropyridin-2-yl)-4-fluoro-2-aminobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)F)N)=O | C12H9ClFN3O
reactant | 4-(ethylthio)-2-(3-(t-butoxycarbonylamino)propyloxy)benzoic acid | C(C)SC1=CC(=C(C(=O)O)C=C1)OCCCNC(=O)OC(C)(C)C | C17H25NO5S
product | N-(5-Chloropyridin-2-yl)-4-fluoro-2-[4-ethylthio-2-(3-(t-butoxycarbonylamino)-propyloxy)benzoylamino]benzamide | 0.93 g, 44% | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)F)NC(C1=C(C=C(C=C1)SCC)OCCCNC(=O)OC(C)(C)C)=O)=O | C29H32ClFN4O5S
